Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Zosyn
 
Attending: ___.
 
Chief Complaint:
left thigh hematoma 
 
Major Surgical or Invasive Procedure:
left thigh hematoma evacuation and wound vac placement 

 
History of Present Illness:
___ with PVD and a chronic non-healing ulcer on the sole of
his left foot by the base of his hallux, who is s/p left ___
bypass with ipsilateral vein ___ who presents as a direct
admission from clinic with chief complaint of pain and swelling
in the left calf related to post-operative hematoma.  He was 
seen
in clinic today where these concerns were raise.  Ultrasound of
the LLE was negative for DVT.  He has been on Coumadin, lovenox,
and dual antiplatelet therapy. 

On the floor, he rates his pain at ___.  His leg is wrapped in
an ACE from clinic.  He has dopplerable ___ and AT, reportedly 
the
same as his exam in clinic.  He denies CP, SOB, nausea, emesis,
abdominal pain, or any other concerning symptoms.

 
Past Medical History:
Past Medical History:
PVD, HTN, multiple DVTs on warfarin, DM with polyneuropathy with
left ___ met-head ulceration.
Right TMA, CKD. 

VASCULAR HISTORY:
___ popliteal and ___ angioplasty
___: right TPT angioplasty/stent; right peroneal 
angioplasty
w/  RX drug eluting balloon. 
___: right TMA
___: right TPT and peroneal angioplasty of restenosis.
___ Right foot metatarsectomy (Podiatry)
___: left ___ bypass

 
Social History:
___
Family History:
Father with diabetes. Mother passed away
with COPD. No history of cardiac, pulmonary, or clotting
diseases.
 
Physical Exam:
On admission: 

Physical Exam:
Vitals: ___ Temp: 98.4 PO BP: 161/74 HR: 90 RR: 18 O2
sat: 100% O2 delivery: RA 
GEN: A&O, NAD
CV: RRR
PULM: non-labored respirations on room air
ABD: Soft, nondistended, nontender
Ext: RLE with well-healed TMA site. LLE with ulcer on plantar
surface, LLE pulse exam was p/d/(AT)d/d. 3+ pitting edema.

At discharge:
GENERAL: [x]NAD  [x]A/O x 3  []intubated/sedated []abnormal
CV: [x]RRR  [] irregularly irregular []no MRG  []Nl S1S2
[]abnormal
PULM: [x]CTA b/l  [x]no respiratory distress  []abnormal
ABD: [x]soft  [x]Nontender  []appropriately tender 
[]nondistended  []no rebound/guarding  []abnormal
WOUND: [x]CD&I  []no erythema/induration []abnormal
EXTREMITIES: R extremity with BKA, L extremity w/ dressing C/D/I
PULSES:  L: p/ d/ d/ d/

 
Pertinent Results:
On admission:
___ 02:08AM BLOOD WBC-11.3* RBC-2.06* Hgb-6.0* Hct-19.2* 
MCV-93 MCH-29.1 MCHC-31.3* RDW-13.8 RDWSD-46.6* Plt ___
___ 02:08AM BLOOD ___ PTT-40.1* ___
___ 02:08AM BLOOD Glucose-288* UreaN-60* Creat-2.5* Na-142 
K-4.6 Cl-103 HCO3-24 AnGap-15
___ 02:08AM BLOOD Calcium-8.3* Phos-3.3 Mg-2.1

At discharge:

___ 04:19AM BLOOD ___-7.1 RBC-2.84* Hgb-8.1* Hct-27.4* 
MCV-97 MCH-28.5 MCHC-29.6* RDW-13.9 RDWSD-49.4* Plt ___
___ 04:19AM BLOOD Plt ___
___ 04:19AM BLOOD Glucose-125* UreaN-33* Creat-2.1* Na-145 
K-5.4 Cl-108 HCO3-26 AnGap-11
___ 04:19AM BLOOD Calcium-8.6 Phos-3.6 Mg-2.0
 
Brief Hospital Course:
Mr. ___ was admitted on ___ due to a left thigh 
hematoma. His INR on admission was found to be 4.7, patient was 
given initially 5mg of IV Vitamin K. Later in the morning he was 
given 1u of pRBC for a Hct of 22. His INR was 2.5 and he was 
taken to the operating room for a left thigh hematoma 
evacuation. He tolerated the procedure well, he was given 5mg of 
IV Vitamin K  in the PACU, his dressgin was found to be not 
saturated, he was given another unit of pRBC in the PACU. It was 
decided that patients Coumadin and Plavix was going to be held. 
Due to an increase in Creatinine on his admission labs 
nephrology was consulted, his FeNa was found to be 0.8%. They 
also recommended a renal US which showed no abnormalities.  He 
was started on Vancomycin/CTX flagyl postoperatively and his 
vanc omycin levels were monitored accordingly. On ___ his 
hematocrit was found to be 22 and received 1u of pRBC. On ___ 
his cultures started growing Coag - staph, patient's hematocrit 
remained stable and his antibiotics were discontinued and 
patient was placed of IV cefazolin. On ___ ___ consult 
was sent for help with management of his glucose and due to 
wound not actively bleeding and looking improved a prevena wound 
vac was placed. He was seen by podiatry during this admission 
who recommended a repeat x ray of his left foot which showed no 
sign of osteomyelitis, he also got instructions of heel WB only 
to left foot in surgical shoe. He will follow up with them as an 
outpatient. On ___ his prevena was taken down, hematoma looked 
improved along with swelling of his left thigh, abdominal pad 
and ACE bandage was kept in left lower extremity and patient was 
restarted on Coumadin and decided that he no longer needed 
Plavix. On ___ hematoma site was dry, dressing in place, 
patient was tolerating a regular diet with his glucose levels 
controlled and was ready to be discharged home. Patient will go 
home with home services, detailed instructions were provided for 
___ care and we discussed the importance of his follow up 
appointments with us and podiatry. His staples were removed 
before discharge and steri strips were placed. We will see Mr. 
___ in clinic in 2 weeks. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Clopidogrel 75 mg PO DAILY 
3. Enoxaparin Sodium 130 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
4. Furosemide 20 mg PO DAILY 
5. Lantus Solostar U-100 Insulin (insulin glargine) 100 unit/mL 
(3 mL) subcutaneous BID 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Warfarin 5 mg PO 3X/WEEK (___) 
8. Warfarin 2.5 mg PO 4X/WEEK (___) 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H pain   
2.  Glargine 50 Units Breakfast
Glargine 30 Units Bedtime
Humalog 5 Units Breakfast
Humalog 5 Units Lunch
Humalog 5 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
RX *insulin glargine [Lantus Solostar U-100 Insulin] 100 unit/mL 
(3 mL) AS DIR 50 Units before BKFT; 30 Units before BED; Disp 
#*2 Syringe Refills:*0
RX *insulin lispro ___ U-100] 100 unit/mL AS 
DIR AS DIR Refills:*2 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN moderate to 
severe pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Furosemide 20 mg PO DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Warfarin 5 mg PO 3X/WEEK (___)  
9.  Warfarin 2.5 mg PO 4X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
left calf hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after surgery 
on your leg.   This surgery was to drain a hematoma that formed 
in your right leg. You tolerated the procedure well and are now 
ready to be discharged from the hospital.   Please follow the 
recommendations below to ensure a speedy and uneventful 
recovery.

Vascular Leg Surgery Discharge Instructions

What to except:

•It is normal feel tired for ___ weeks after your surgery
•It is normal to have leg swelling.  Keep your leg elevated as 
much as possible.  This will decrease the swelling. 
•Your leg will feel tired and sore.   This usually passes 
within a few weeks.
•Your incision will be sore, slightly raised, and pink.  Any 
drainage should decrease or stop with in the first 2 weeks. 
•If you are home, you will likely receive a visit from a 
Visiting Nurse ___.  Members of your health care team will 
discuss this with you before you go home.   

Medications:
•Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

•It is very important that you take Aspirin every day!  You 
should never stop this medication before checking with your 
surgeon

Pain Management:
•It is normal to feel some discomfort/pain following surgery.  
This pain is often described as “soreness”. 
•You may take Tylenol (acetaminophen ) as needed for pain.   
You will also receive a prescription for stronger pain medicine, 
 if the Tylenol doesn’t work, take prescription medicine. 
•Narcotic pain medication can be very constipating, please also 
take a stool softner such as Colace.   If constipation becomes a 
problem, your pharmacist can suggest additional over the counter 
medications. 
•Your pain medicine will work better if you take it before your 
pain gets to severe. 
•Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon. 


Activity:
•Do not drive until your surgeon says it is okay and:
-your leg feels strong
-you have stopped taking pain medication and feel you could 
respond in an emergency
•Walking is good because it helps your muscles get stronger and 
improves blood flow. Start with short walks.  If you can, go a 
little further each time, letting comfort be your guide.  
•Try not to go up and downstairs too much in the first weeks.  
Use stairs only once or twice a day until your incision is fully 
healed and you are back to your usual strength.
•Avoid things that may constrict blood flow or put pressure on 
your incision, such as tight shoes, socks or knee highs.
•Do not take a tub bath or swim until your staples are removed 
and your wound is healed. 
•When you sit, keep your leg elevated to reduce swelling.
•If swelling in your leg is getting worse, lie down with your 
leg up on a pillows.  If your swelling continues, please call 
your surgeon.  You may be instructed to use special elastic 
bandages or stockings.
•Try not to sit in the same position for a long while.  For 
example, ___ go on a long car ride. 
•You may go outside.  But avoid traveling long distances until 
you see your surgeon at your next visit. 
•You may resume sexual activity after your incisions are well 
healed.

Your incision

•Your incision may be slightly red around the stitches.  This 
is normal.
•It is normal to have a small amount of clear or light red 
fluid coming from your incision.
This will decrease and stop in a few days.  If it does not stop, 
or if you have a lot of fluid coming out., please call your 
surgeon.
•You may shower 48 hours after your surgery.  Do not let the 
shower spray right on the incision,  Let the soapy water run 
over the incision, then rinse.  Gently pat the area dry.  Do not 
scrub the incision,  Do not apply ointment or lotions to the 
incision.
•You do not need to cover the incision if there is no drainage, 
 If there is a small amount of drainage, put a small sterile 
gauze or Bandaid over the incison.
•It is normal to feel a firm ridge along the incision,  This 
will go away as your wound heals. 
•Avoid direct sun exposure to the incision area for 6 months.  
This will help keep the scar from becoming discolored.
•Over ___ months, your incision will fade and become less 
prominent.

Diet and Bowels
•It is normal to have a decreased appetite.  Your appetite will 
return over time.   Follow a well-balanced, health healthy diet, 
without too much salt and fat. 
•Prescription pain medicine might make you constipated.  If 
needed, you may take a stool softener (such as Colace) or gentle 
laxative (ask your pharmacist for recommendations).
Drinking more fluid may also help.
•If you go 48 hours without a bowel movement, or having pain 
moving your bowels, call your primary care physician.

 
Followup Instructions:
___